US07229999B2
5-(4-Fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(methyl-propyl-amino)-nicotinamide
The title compound was synthesized in analogy to Example 74, using 5-bromo-6-chloro-nicotinic acid methyl ester, N-methyl-N-propylamine, (4-fluoro-phenyl)-boronic acid and (1R,2R)-2-amino-cyclohexanol hydrochloride as starting materials to yield 5-(4-fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(methyl-propyl-amino)-nicotinamide. MS (ISP) 386.2 (M+H)+.

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | N-methyl-N-propylamine | CNCCC | C4H11N
reactant | (4-fluoro-phenyl)-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | (1R,2R)-2-amino-cyclohexanol hydrochloride | Cl.N[C@H]1[C@@H](CCCC1)O
product | 5-(4-fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(methyl-propyl-amino)-nicotinamide | FC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)N(CCC)C | C22H28FN3O2
